US06825200B1
(2S)-2-(tert-Butoxycarbonylamino)-N-[2-[4-(4-chlorophenyl)-1-piperazinyl]-2-oxoethyl]-3-(2-pyridyl)propanamide
Diphenylphosphoryl azide (25 g) was added to a solution of (2S)-2-(tert-butoxycarbonylamino)-3-(2-pyridyl)propanoic acid (23 g) in N,N-dimethylformamide (230 ml) at 5° C. To the mixture was added a solid of 2-amino-1-[4-(4-chlorophenyl)-1-piperazinyl]-ethan-1-one dihydrochloride (28.2 g) at 5° C. with stirring and then diisopropylethylamine (47 ml) was added dropwise at 7-10° C. The mixture was stirred at 7-10° C. for 30 minutes and at room temperature for 2 hours. The mixture was diluted with saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. The aqueous layer was extracted with two 500-ml portions of ethyl acetate, and the combined organic layers were extracted with 1N hydrochloric acid (150 ml×2). The combined aqueous layers were basified (pH 9) with sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was washed thoroughly with aqueous sodium hydrogencarbonate solution and brine, dried over magnesium sulfate and concentrated in vacuo to give the title compound (42 g).

reactant | Diphenylphosphoryl azide | 25 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | (2S)-2-(tert-butoxycarbonylamino)-3-(2-pyridyl)propanoic acid | 23 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=NC=CC=C1 | C13H18N2O4
reactant | 2-amino-1-[4-(4-chlorophenyl)-1-piperazinyl]-ethan-1-one dihydrochloride | 28.2 g | Cl.Cl.NCC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl
reactant | diisopropylethylamine | 47 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 230 ml | CN(C=O)C | C3H7NO
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | (2S)-2-(tert-Butoxycarbonylamino)-N-[2-[4-(4-chlorophenyl)-1-piperazinyl]-2-oxoethyl]-3-(2-pyridyl)propanamide | 42 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)NCC(=O)N1CCN(CC1)C1=CC=C(C=C1)Cl)CC1=NC=CC=C1 | C25H32ClN5O4
